US05646143
2(R)-Methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-{3-[2-(2-methoxy-ethoxy)ethoxy]-4-methoxy-phenyl}-octanoic acid (N-butyl)amide hydrochloride
Analogously to Example 1, the title compound is prepared starting from 27 mg of N-tert-butoxy-carbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-{3-[2-(2-methoxy-ethoxy)ethoxy]-4-methoxy-phenyl}-octanoic acid (N-butyl)amide. This yields the tire compound: Rf (dichloromethane/methanol=1:1)=0.19; Rt (I)=18.93 minutes; FAB-MS(M+H)+ =511.

reactant | N-tert-butoxy-carbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-{3-[2-(2-methoxy-ethoxy)ethoxy]-4-methoxy-phenyl}-octanoic acid (N-butyl)amide | 27 mg | C(CCC)NC([C@@H](C([C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCOCCOC)C(C)C)NOC(C)(C)C)O)=C=O)C)=O | C33H56N2O8
reactant | dichloromethane methanol | ClCCl.CO
product | 2(R)-Methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-{3-[2-(2-methoxy-ethoxy)ethoxy]-4-methoxy-phenyl}-octanoic acid (N-butyl)amide hydrochloride | Cl.C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCOCCOC)C(C)C)N)O)C)=O | InChI=1S/C28H50N2O6.ClH/c1-7-8-11-30-28(32)21(4)16-25(31)24(29)19-23(20(2)3)17-22-9-10-26(34-6)27(18-22)36-15-14-35-13-12-33-5;/h9-10,18,20-21,23-25,31H,7-8,11-17,19,29H2,1-6H3,(H,30,32);1H/t21-,23+,24+,25+;/m1./s1
